US08633200B2
To a stirred solution of (S)-methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (0.059 g, 0.152 mmol) and tert-butyl acetate (1 ml, 7.40 mmol) in CH2Cl2 (3 mL) was added 70% perchloric aci (0.039 ml, 0.456 mmol) at rt. After 2 h, the reaction was diluted with Et2O (50 mL), washed with sat. Na2CO3 (2×5 mL), dried (Na2SO4), filtered and concentrated to give yellow solid which was purified by prep-HPLC to afford (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.0357 g, 0.080 mmol, 52.9% yield) as brown paste. 1H NMR (500 MHz, CDCl3) δ: 7.97 (t, J=1.7 Hz, 1H), 7.86 (dt, J=7.6, 1.3 Hz, 1H), 7.40-7.31 (m, 2H), 6.79 (s, 1H), 5.36 (s, 1H), 3.70 (s, 3H), 3.53 (dd, J=13.4, 7.6 Hz, 1H), 3.14 (dd, J=13.4, 7.0 Hz, 1H), 2.69 (s, 3H), 2.65-2.54 (m, 1H), 1.25 (s, 9H), 1.03 (d, J=6.7 Hz, 3H), 0.98 (d, J=6.7 Hz, 3H). LCMS (M+H) calcd for C24H31ClN3O3: 444.21. found: 444.3.

reactant | (S)-methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 0.152 mmol, 0.059 g | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2CC(C)C)[C@@H](C(=O)OC)O)C)=C1 | C20H22ClN3O3
reactant | tert-butyl acetate | 7.40 mmol, 1 ml | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.080 mmol, 0.0357 g, 52.9% yield | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1CC(C)C)N=C(C2)C2=CC(=CC=C2)Cl)C | C24H30ClN3O3
